US06987116B2
A mixture of 5-phenyl-3-thienylamine (1.00 g, 5.7 mmol) and ethyl (ethoxymethylene)cyanoacetate (950 mg, 5.7 mmol) in 20 mL of toluene is heated at reflux for 45 minutes. The reaction mixture is filtered while warm and the collected solid is washed with diethyl ether to provide 198 mg of ethyl 2-cyano-3-[(5-phenyl-3-thienyl)amino]-2-propenoate as white crystals, mp 190-193° C.; MS 296.9 (M−H)−.

reactant | 5-phenyl-3-thienylamine | 5.7 mmol, 1.00 g | C1(=CC=CC=C1)C1=CC(=CS1)N | C10H9NS
reactant | ethyl (ethoxymethylene)cyanoacetate | 5.7 mmol, 950 mg | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-3-[(5-phenyl-3-thienyl)amino]-2-propenoate | 198 mg | C(#N)C(C(=O)OCC)=CNC1=CSC(=C1)C1=CC=CC=C1 | C16H14N2O2S
